Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]([C@:2]1([C:5](=[O:6])[H:10])[C:3]([H:8])([H:9])[O:4]1)[H:7],48.915896440111894
[O:1]=[C:2]1[C:3]([H:8])=[C-:4][N+:5]([H:9])([H:10])[C:6]([H:11])=[N:7]1>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,15.730822945281702
[C:1]([O:2][C:3]([C-:4]([N+:5]([C:6](=[O:7])[H:16])([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],20.205492397072604
[C:1]([O:2][C:3]([C:6](=[O:7])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:15])[H:16])([H:13])[H:14]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.8105205436808
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][c:6]1[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[N:2]2[C@@:3]1([H:10])[N:4]=[N:5][C:6]2([H:8])[H:11],108.265534902771
[O:1]=[C:2]([N:6]=[C:5]=[C:3]=[O:4])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7],27.79737581419
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:5]=[O:6])[H:11])([H:8])([H:9])[H:10].[C:3](#[N:4])[C:7]([H:12])([H:13])[H:14],84.9335396537883
[C:1]([C:2][H:10])([N:7]1[C@@:3]2([H:11])[C:4]([H:12])([H:13])[C@:5]1([H:14])[C:6]2([H:15])[H:16])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]3([H:15])[H:16])[N:7]12,4.129588907004987
[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10]>>[C:1]1([H:5])([H:6])[O:3][C:4]1([H:9])[H:10].[C:2]([H:7])[H:8],113.406232479016
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:8])([C:6](=[O:7])[H:13])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][H:12],113.476676685754
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[C:4](/[C:5](=[O:6])[H:16])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:15],88.2234137224572
[H:7][H:8].[O+:1]1=[C-:2][C@@:6]2([H:10])[C@@:4]([H:9])([C:3]1)[O:5]2>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10],15.760787124028667
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:11])/[C:4](=[N:5]/[H:12])[O:6]1)=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10],64.7473508063235
[O+:1]#[C:2][C:3]([C:4](=[C-:5][H:10])[N+:7]#[C-:6])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],7.729495004288481
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2](/[C:7](=[C:6]=[O:5])[H:10])[H:9])\[H:8].[N:3]#[N:4],34.4052069200636
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]1[C@@:2]2([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[C:7]2[H:14],72.38618333727459
[C:1](#[C:2][H:5])[C:3]#[C:4][H:6]>>[C:1](#[C:2][H:5])[C:4](=[C:3])[H:6],53.617646527001
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[C-:3]#[O+:4].[O:1]([C:2](=[C:5]=[C:6]([H:9])[H:10])[H:8])[H:7],29.5147414065661
[C:5](#[N:6])[H:8].[N:1](=[C:2]1\[O:3][C:4]1([H:9])[H:10])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],20.767443972598706
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:9])[H:12])([H:10])[H:11])([C:5](=[O:6])[H:14])([H:7])[H:8],91.20326786320128
[C:1]([O:2][C@@:3]1([H:10])[C:4]([H:11])([H:12])[C@@:5]1([C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],30.3913118387701
[C:1]([C@@:2]1([C:4]([O:5][H:16])([H:14])[H:15])[C:3]([H:12])([H:13])[N:7]([H:11])[C:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],54.964265397274204
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([O:7][H:17])[C:4]1([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],66.093848277835
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]1([H:8])[C:2](=[O:3])[C:6]([O+:5]=[C-:4][H:9])=[N:7]1,123.91888347021299
[H:12][H:14].[N:1]([C@@:2](/[C:3](=[C:4](\[O:5][H:15])[H:13])[H:11])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],81.2948085156147
[C:1]1([H:8])([H:10])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]1=[C:5].[C:6](=[O:7])([H:9])[H:15]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],41.003390080801694
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C:3](=[C:5]=[N:6][N:4]([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])[H:8],78.86349418783149
